US08440666B2
N-Methoxy-N-methyl-1H-pyrazole-4-carboxamide
A N,N-dimethylformamide solution (3 mL) of 4-pyrazolecarboxylic acid (150 mg, 1.34 mmol), N,O-dimethylhydroxylamine hydrochloride (261.4 mg, 2.68 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, hydrochloride (513.8 mg, 2.68 mmol), 1-hydroxybenzotriazoleimidazole anhydride (54.2 mg, 0.40 mmol), and triethylamine (0.38 mL, 2.68 mmol) was stirred for 1 day. After completion of the reaction, the reaction solution was mixed with ethyl acetate and washed with saturated aqueous sodium chloride. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting crude reaction product containing the desired product was used for the next step (142.7 mg).

reactant | 4-pyrazolecarboxylic acid | 1.34 mmol, 150 mg | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.68 mmol, 261.4 mg | Cl.CNOC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, hydrochloride | 2.68 mmol, 513.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 2.68 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methyl-1H-pyrazole-4-carboxamide | CON(C(=O)C=1C=NNC1)C | C6H9N3O2
